US07582123B2
Synthesis of 4-{[(1E)-2-amino-4-iminocyclohexa-2,5-dien-1-ylidene]amino}-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one
20 mmol of 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one and 20 mmol of meta-phenylene diamine was dissolved in 30 g of an ice/water mixture and the pH was adjusted to 10 using 20 ml of 20% aqueous ammonia. While stirring, a solution of 24 mmol of ammonium persulfate in 10 ml of water was added dropwise over 30 minutes. The mixture was stirred at 0° C. for 1 h 30 min and the solid formed was separated by filtration and washed with water and acetone and dried in a desiccator under vacuum for 12 hours, which resulted in 1.8 g of expected product, or a yield of 30%.

reactant | 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | 20 mmol | NC=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C11H13N3O
reactant | meta-phenylene diamine | 20 mmol | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | ammonia | 20 ml | N | H3N
reactant | ammonium persulfate | 24 mmol | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 10 ml | O | H2O
product | 4-{[(1E)-2-amino-4-iminocyclohexa-2,5-dien-1-ylidene]amino}-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | 1.8 g, yield of 30% | NC=1\C(\C=CC(C1)=N)=N\C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C17H17N5O
